US08735384B2
2-Bromophenylhydrazine hydrochloride (1.00 g, 4.47 mmol) was added to a solution of 2-(hydroxymethylene)cyclohexanone (0.564 g, 4.47 mmol) in ethanol (20 mL) and the resulting solution was refluxed 3 h before being concentrated. The crude material was taken up in DCM and washed with saturated ammonium chloride, 1N NaOH, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give 1-(2-bromophenyl)-4,5,6,7-tetrahydro-1H-indazole.

reactant | 2-Bromophenylhydrazine hydrochloride | 4.47 mmol, 1.00 g | Cl.BrC1=C(C=CC=C1)NN
reactant | 2-(hydroxymethylene)cyclohexanone | 4.47 mmol, 0.564 g | OC=C1C(CCCC1)=O | C7H10O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-(2-bromophenyl)-4,5,6,7-tetrahydro-1H-indazole | BrC1=C(C=CC=C1)N1N=CC=2CCCCC12 | C13H13BrN2
